US04699984
To 1400 ml of Dowtherm A heated to 240°-245° C. was added over a 10 minute period 113 g of 4-(2-fluorophenyl)-2,6-dimethyl-3,5-pyridinedicarboxylic acid and the reaction mixture was boiled for 50 minutes, cooled and allowed to stand at room temperature overnight. The crystalline solid, a by-product identified below, was filtered off and the filtrate was extracted with 700 ml of 3N hydrochloric acid followed by a second extraction with 300 ml of 3N hydrochloric acid. The combined acidic extracts were made basic by adding aqueous ammonium hydroxide and the alkaline mixture was extracted with 800 ml of chloroform. Evaporation of the chloroform yielded a brown mixture of solid and liquid, to which was added 300 ml of n-hexane and the mixture chilled. The solid was filtered off and dried. This solid, a by-product, was combined with the above noted solid by-product to yield 25.4 g (29%) of 2,4-dimethyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one, m.p. 194°-197° C. The filtrate was concentrated to dryness on a steam bath, the residue taken up with ethanol and the solution concentrated on a rotary evaporator to yield, as a liquid, 55.2 g (70%) of 4-(2-fluorophenyl)-2,6-dimethylpyridine.

reactant | Dowtherm A | 1400 ml | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
reactant | 4-(2-fluorophenyl)-2,6-dimethyl-3,5-pyridinedicarboxylic acid | 113 g | FC1=C(C=CC=C1)C1=C(C(=NC(=C1C(=O)O)C)C)C(=O)O | C15H12FNO4
solvent | n-hexane | 300 ml | CCCCCC | C6H14
product | 2,4-dimethyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 25.4 g, 29% | CC=1C=C2C(=C(N1)C)C(OC1=C2C=CC=C1)=O | C14H11NO2
